US08252781B2
1-(Adamantan-2-yl)-2-(2-nitrophenyl)hydrazine prepared in Processes 1 and 2 in Example 180 and 2-bromoisobutyryl bromide were used for a similar reaction and treatment as Process 3 of Example 1, and 2-bromo-N-(adamantan-2-yl)-2-methyl-N′-(2-nitrophenyl)propane hydrazide was obtained as a yellow oil.

reactant | 1-(Adamantan-2-yl)-2-(2-nitrophenyl)hydrazine | C12C(C3CC(CC(C1)C3)C2)NNC2=C(C=CC=C2)[N+](=O)[O-] | C16H21N3O2
reactant | 2-bromoisobutyryl bromide | BrC(C(=O)Br)(C)C | C4H6Br2O
product | 2-bromo-N-(adamantan-2-yl)-2-methyl-N′-(2-nitrophenyl)propane hydrazide | BrC(C(=O)N(NC1=C(C=CC=C1)[N+](=O)[O-])C1C2CC3CC(CC1C3)C2)(C)C | C20H26BrN3O3
